US07259266B2
8-(2-pyridi n-2-ylethyl)-6-(trifl uoro methoxy)-2-(trifl uoro methyl)-2H-c hro men e-3-carboxylic acid
A mixture of 8-(pyridin-2-ylethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid prepared as in Example 621j, Step 2 (684 mg, 1.59 mmole) and 10% Pd/C (100 mg) in glacial HOAc (20 mL) was hydrogenated at 20 psi for 2.5 h. The catalyst was filtrated, the solvent was removed in vacuo and the remaining HOAc was removed by azeotroping with hexanes to give the crude product as a tan solid. The solid was triturated with acetonitrile to give 362 mg (53% yield) of the product as an off-white solid: ESHRMS m/z 434.0834 (M+H, C19H14F6NO4, Calc'd 434.0822); 1H NMR (dmso-d6/300 MHz) 13.43 (brs, 1H), 8.50 (d, 1H, J=4.8 Hz), 7.90 (s, 1H), 7.67 (t, 1H, J=7.7 Hz), 7.46 (s, 1H), 7.26-7.17 (m, 3H), 6.06 (q, 1H, J=7.3 Hz), 3.32-3.01 (m, 4H).

reactant | 8-(pyridin-2-ylethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | N1=C(C=CC=C1)C#CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C19H9F6NO4
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 8-(2-pyridi n-2-ylethyl)-6-(trifl uoro methoxy)-2-(trifl uoro methyl)-2H-c hro men e-3-carboxylic acid | 362 mg, 53% yield | N1=C(C=CC=C1)CCC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C19H13F6NO4
